US07223788B2
5-(3-Dimethylaminopyrrolidin-1-yl)pyridin-2-ylamine
A suspension of 5-bromo-2-nitropyridine (2 g), 3-(dimethylamino)pyrrolidine (1.14 g), (R)-(+)2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.5 g), palladium(II) acetate (0.09 g), cesium carbonate (4.5 g) in toluene (20 ml) was heated at 100° C. for 3 hours. Cooling to room temperature was followed by extraction with 1N hydrochloric acid (2×100 ml). The aqueous phase was adjusted to pH>10 with ammonia, extracted with ethyl acetate (2×100 ml), dried with sodium sulfate, filtered and concentrated. The substance was then treated as described for method B. This resulted in the product with the molecular weight of 206.29 (C11H18FN4); MS (ESI): 207 (M+H+).

reactant | 5-bromo-2-nitropyridine | 2 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 3-(dimethylamino)pyrrolidine | 1.14 g | CN(C1CNCC1)C | C6H14N2
reactant | (R)-(+)2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | cesium carbonate | 4.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.09 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(3-Dimethylaminopyrrolidin-1-yl)pyridin-2-ylamine | CN(C1CN(CC1)C=1C=CC(=NC1)N)C | C11H18N4
